US03991065
3-Methyl-5,6,7,8-tetrahydroquinoline (50 g.) dissolved in glacial acetic acid (180 ml.) and the solution treated with 30% hydrogen peroxide (70 ml.) and heated at 80° C for 20 hours. The solvent was removed in vacuo and the residual oil diluted with water (25 ml.) and re-evaporated. The resulting oil was dissolved in chloroform (100 ml.), washed with aqueous sodium carbonate (2 × 25 ml.), saturated brine (2 × 25 ml.), dried (MgSO4) and the solvent removed in vacuo to give 3-Methyl-5,6,7,8-tetrahydroquinoline -1 -oxide (60 g.) as a pale yellow solid which was used without purification. The N-oxide (60 g.) was dissolved in acetic anhydride (120 ml.) and added to boiling acetic anhydride (120 ml.) and the mixture heated at reflux for 30 minutes. The solvent was removed in vacuo and the residual oil was treated with 10% hydrochloric acid (700 ml.) and the solution heated on a steam bath for 2 hours. The cooled reaction mixture was adjusted to pH 9.0 with sodium hydroxide and extracted with ether (3 × 100 ml.). The combined etheral extracts were washed with saturated brine, dried (MgSO4) and the solvent removed in vacuo. The resultant oil was distilled at 0.15 mmHg to give a colourless oil (22 g.) b.p. 70-78° C which crystallised from n-hexane to give 8-hydroxy-3 -methyl-5,6,7,8-tetrahydroquinoline as colourless needles m.p. 58° C. (Found: C,73.7; H,8.2;N,8.3. C10H13NO requires: C,73.6; H,8.0; N,8.6%).

reactant | 3-Methyl-5,6,7,8-tetrahydroquinoline | 50 g | CC=1C=NC=2CCCCC2C1 | C10H13N
reactant | hydrogen peroxide | 70 ml | OO | H2O2
solvent | acetic acid | 180 ml | C(C)(=O)O | C2H4O2
product | 3-Methyl-5,6,7,8-tetrahydroquinoline -1 -oxide | 60 g | CC=1C=[N+](C=2CCCCC2C1)[O-] | C10H13NO
